US05155130
6-Phenoxy-2H-1-benzopyran (3.36 g, 15 mmol) and N-formylmorpholine (10.4 g, 90 mmol) are dissolved in 10.5 ml of methylene chloride and treated with phosphorus oxychloride (13.8 g, 90 mmol) at 0° C. over 15 minutes. The mixture is then heated at 60° C. for 27 hours, cooled and poured slowly into an ice-water mixture. The mixture is then neutralized with aqueous ammonium hydroxide, and extracted twice with methylene chloride. The combined organic extracts are washed with water, dried (MgSO4), and evaporated to give crude 6-phenoxy-2H-1-benzopyran-3-carboxaldehyde, which is used without further purification.

reactant | 6-Phenoxy-2H-1-benzopyran | 15 mmol, 3.36 g | O(C1=CC=CC=C1)C=1C=CC2=C(C=CCO2)C1 | C15H12O2
reactant | N-formylmorpholine | 90 mmol, 10.4 g | C(=O)N1CCOCC1 | C5H9NO2
reactant | phosphorus oxychloride | 90 mmol, 13.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methylene chloride | 10.5 ml | C(Cl)Cl | CH2Cl2
product | 6-phenoxy-2H-1-benzopyran-3-carboxaldehyde | O(C1=CC=CC=C1)C=1C=CC2=C(C=C(CO2)C=O)C1 | C16H12O3
